US05948793
3-((1-methyl-2-(S)-pyrroidinyl)methoxy)pyridazine dihydrochloride
A 92.8 mg (0.27 mmol) sample of 3-((1-methyl-2-(S)-pyrrolidinyl)methoxy)-6-chloropyridazine fumarate, from Example 12 above, was dissolved in 10 mL of a 4:1 mixture of ethyl acetate:ethanol, and 0.124 mL (0.89 mmol) of triethylamine and 5 mg of 10% Pd/C were added. The mixture was hydrogenated under 1 atm of H2 for 30 minutes, then the catalyst was removed by filtration. The solvents were removed under vacuum, to the residue was added 20 mL of satd NaHCO3 solution, and the mixture was extracted with methylene chloride. The solution was dried over MgSO4 and taken to dryness, the residue was azeotroped with ethanol several times to remove residual triethylamine. The residue was treated with HCl in ether according to Example 14c to afford 40 mg of the title compound. mp 176-177° C. MS (DCI/NH3) m/e: 194 (M+H)+. 1H NMR (D2O, 300 MHz) δ: 8.89 (dd, 1H, J=4.6, 1.3 Hz), 7.75 (dd, 1H, J=9.0, 4.6 Hz), 7.38 (dd, 1H, J=9.0, 1.3 Hz), 4.84 (dd, 1H, J=12.3, 3.1 Hz), 4.67 (dd, 1H, J=12.3, 6.1 Hz), 3.98 (m, 1H), 3.76 (m, 1H), 3.26 (m, 1H), 3.04 (s, 3H), 2.41 (m, 1H), 2.23 (m, 1H). Anal. Calc. for C10H17Cl2N3O.0.3 HCl: C, 43.34; H, 6.29; N, 15.11; Found C, 43.23; H, 6.19; N, 14.78.

reactant | 3-((1-methyl-2-(S)-pyrrolidinyl)methoxy)-6-chloropyridazine fumarate | C(\C=C\C(=O)O)(=O)O.CN1[C@@H](CCC1)COC=1N=NC(=CC1)Cl
reactant | ethanol | C(C)O | C2H6O
reactant | triethylamine | 0.89 mmol, 0.124 mL | C(C)N(CC)CC | C6H15N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | Pd/C | 5 mg | [Pd] | Pd
product | 3-((1-methyl-2-(S)-pyrroidinyl)methoxy)pyridazine dihydrochloride | 40 mg | Cl.Cl.CN1[C@@H](CCC1)COC=1N=NC=CC1 | InChI=1S/C10H15N3O.2ClH/c1-13-7-3-4-9(13)8-14-10-5-2-6-11-12-10;;/h2,5-6,9H,3-4,7-8H2,1H3;2*1H/t9-;;/m0../s1
